US08034812B2
Production of N-{3-[(2-anilinoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide
A mixture of N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide (100 mg, 0.242 mmol), iodobenzene (32 μl, 0.290 mmol), tris(dibenzylideneacetone)dipalladium (0) (11 mg, 24.2 μmol), dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (23 mg, 48.4 μmol), sodium tert-butoxide (34 mg, 0.362 mmol) and toluene (2 mL) was stirred under an argon atmosphere with heating at 80° C. for 5 hr. After the reaction mixture was allowed to cool to room temperature, saturated aqueous sodium hydrogencarbonate solution was added to the mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=0/100→50/50) to give the title compound (19 mg, 16%) as a pale-green powder.

reactant | N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 0.242 mmol, 100 mg | NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C20H14F3N5O2
reactant | iodobenzene | 0.290 mmol, 32 μl | IC1=CC=CC=C1 | C6H5I
reactant | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine | 48.4 μmol, 23 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | sodium tert-butoxide | 0.362 mmol, 34 mg | CC(C)([O-])C.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 24.2 μmol, 11 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | N-{3-[(2-anilinoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 19 mg, 16% | N(C1=CC=CC=C1)C=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C26H18F3N5O2
